US06169091A
6-Chloro-4-(4-phenylthioanilino)pyrido[3,4-d]pyrimidine hydochloride
Prepared according to Procedure A from 4-(phenylthio)aniline (commercially available from Salor) and 1,6-dichloropyrido[3,4-d]pyrimidine; δH [2H6]-DMSO 8.94 (1H,s), 8.85 (1H,s), 8.25 (1H,s), 7.96 (2H,d), 7.24-7.49 (7H,m); m/z (M+1)+365.

reactant | 4-(phenylthio)aniline | C1(=CC=CC=C1)SC1=CC=C(N)C=C1 | C12H11NS
reactant | 1,6-dichloropyrido[3,4-d]pyrimidine | ClN1CN=CC2=C1C=NC(=C2)Cl | C7H5Cl2N3
product | 6-Chloro-4-(4-phenylthioanilino)pyrido[3,4-d]pyrimidine hydochloride | Cl.ClC1=CC2=C(N=CN=C2NC2=CC=C(C=C2)SC2=CC=CC=C2)C=N1 | InChI=1S/C19H13ClN4S.ClH/c20-18-10-16-17(11-21-18)22-12-23-19(16)24-13-6-8-15(9-7-13)25-14-4-2-1-3-5-14;/h1-12H,(H,22,23,24);1H
